US09210927B2
Step 2. Ethyl 4-formyl-2-methylbenzoate (AI16)
To a stirred solution of 4-formyl-2-methylbenzoic acid (3 g, 18.2 mmol) in ethyl alcohol (EtOH; 30 mL) was added sulfuric acid (H2SO4, ×M; 2 mL), and the reaction mixture was heated at 80° C. for 18 h. The reaction mixture was cooled to 25° C. and concentrated under reduced pressure. The residue was diluted with EtOAc and washed with H2O. The combined EtOAc extracts were washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford the title compound as a solid (2.8 g, 80%): 1H NMR (400 MHz, CDCl3) δ 10.05 (s, 1H), 8.04 (m, 1H), 7.75 (m, 2H), 4.43 (m, 2H), 2.65 (s, 3H), 1.42 (m, 3H).

reactant | 4-formyl-2-methylbenzoic acid | 18.2 mmol, 3 g | C(=O)C1=CC(=C(C(=O)O)C=C1)C | C9H8O3
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl alcohol | 30 mL | C(C)O | C2H6O
product | Ethyl 4-formyl-2-methylbenzoate | 2.8 g, 80% | C(=O)C1=CC(=C(C(=O)OCC)C=C1)C | C11H12O3
